US05039672
2,3-dihydro-6-fluoro-2-(2-phenylethyl)-4H-1-benzopyran-4-one (8.9 gm) was dissolved in anhydrous tetrahydrofuran, and toluenesulfonylmethylisocyanide (12.9 gm) added, followed by freshly prepared sodium ethoxide in ethanol (prepared from sodium (1.5 gm) in ethanol (60 mL) and the mixture stirred at room temperature overnight. The mixture was then concentrated in vacuo, and the residue partitioned between ethyl acetate and H2O, and the organic layer washed with H2O, brine, dried, filtered and evaporated. The residue was purified by column chromatography (2:1 hexanes/diethyl ether) to yield 4-cyano-2,3-dihydro-6-fluoro-2-(2-phenylethyl)-4H-1-benzopyran (2.7 gm, ir: 2250 cm-1).

reactant | 2,3-dihydro-6-fluoro-2-(2-phenylethyl)-4H-1-benzopyran-4-one | 8.9 gm | FC=1C=CC2=C(C(CC(O2)CCC2=CC=CC=C2)=O)C1 | C17H15FO2
reactant | toluenesulfonylmethylisocyanide | 12.9 gm | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.5 gm | [Na] | Na
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4-cyano-2,3-dihydro-6-fluoro-2-(2-phenylethyl)-4H-1-benzopyran | 2.7 gm | C(#N)C1CC(OC2=C1C=C(C=C2)F)CCC2=CC=CC=C2 | C18H16FNO
